US06649643B1
Production of 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-(1H-1,2,3-triazol-4-yl)-2-naphthyl)-1-propanol
To an solution of 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthonitrile in THF (15 mL) was added a solution of n-butyllithium in hexane (1.6M:2.57 mL) under ice cooling, and the mixture was stirred for 20 min. A solution of trimethylsilyldiazomethane in THF (10% wt.:6.0 g) was added dropwise to the mixture and stirred for 90 min under ice cooling. The reaction mixture was diluted with saturated aq. ammonium chloride and extracted with ethyl acetate. The extract was washed with water and brine, dried and concentrated. The residue was purified by column chromatography (eluent; hexane:THF=1:1) and crystallized from ethyl acetate-hexane (1:1) to give the titled compound (881 mg) as a colorless powder.

reactant | 6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthonitrile | OC(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)C#N | C37H31N3O
reactant | n-butyllithium | C(CCC)[Li]
reactant | trimethylsilyldiazomethane | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | hexane | 1.6M, 2.57 mL | CCCCCC | C6H14
solvent | THF | 6.0 g | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 1-(1H-Imidazol-4-yl)-2-methyl-1-(6-(1H-1,2,3-triazol-4-yl)-2-naphthyl)-1-propanol | 881 mg | N1C=NC(=C1)C(C(C)C)(O)C1=CC2=CC=C(C=C2C=C1)C=1N=NNC1 | C19H19N5O
